US07235572B2
In analogy to the procedure described in example 27 c], 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole was treated with tert-butyllithium and methyl iodide to yield 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole as red crystals.

reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole | BrC1=CN(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | methyl iodide | CI | CH3I
product | 1-(tert-butyl-dimethyl-silanyl)-6-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole | C(C)(C)(C)[Si](N1C=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)C)(C)C | C21H37NOSi2
